US07320993B1
4-(trans-2-phenyl-cyclopropyl-carbonylamino)-butylamine hydrochloride
Batch size: 7.5 g (21.6 mmol) N-[4-(trans-2-phenyl-cyclopro-pyl-carbonylamino)-butyl]-carbamic acid tert-butyl ester and 6.4 ml (77 mmol) concentrated hydrochloric acid in 150 ml ethanol.

reactant | N-[4-(trans-2-phenyl-cyclopro-pyl-carbonylamino)-butyl]-carbamic acid tert-butyl ester | 21.6 mmol, 7.5 g | C(C)(C)(C)OC(NCCCCNC(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1)=O | C19H28N2O3
reactant | hydrochloric acid | 77 mmol, 6.4 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-(trans-2-phenyl-cyclopropyl-carbonylamino)-butylamine hydrochloride | Cl.C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)NCCCCN | InChI=1S/C14H20N2O.ClH/c15-8-4-5-9-16-14(17)13-10-12(13)11-6-2-1-3-7-11;/h1-3,6-7,12-13H,4-5,8-10,15H2,(H,16,17);1H/t12-,13+;/m0./s1
